US09340554B2
Synthesis of 4-N-[5-bromothieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine
A 50-mL round-bottom flask was charged with commercially available 5-bromo-4-chlorothieno[2,3-d]pyrimidine (300 mg, 1.20 mmol, 1.00 equiv), 1-N,1-N-dimethylcyclohexane-1,4-diamine (205 mg, 1.44 mmol, 1.20 equiv), potassium carbonate (497 mg, 3.60 mmol, 3.00 equiv) in N,N-dimethylformamide (10 mL). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 100 mL of water. The resulting solution was extracted with 3×100 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×200 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 250 mg (59%) of 4-N-[5-bromothieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine as a yellow oil.

reactant | 5-bromo-4-chlorothieno[2,3-d]pyrimidine | 1.20 mmol, 300 mg, 1.00 equiv | BrC1=CSC=2N=CN=C(C21)Cl | C6H2BrClN2S
reactant | 1-N,1-N-dimethylcyclohexane-1,4-diamine | 1.44 mmol, 205 mg, 1.20 equiv | CN(C1CCC(CC1)N)C | C8H18N2
reactant | potassium carbonate | 3.60 mmol, 497 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-N-[5-bromothieno[2,3-d]pyrimidin-4-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | BrC1=CSC=2N=CN=C(C21)NC2CCC(CC2)N(C)C | C14H19BrN4S
